US06476041B1
4-(4-Chloro-benzyl)-piperidine:
A mixture of 2 g of 4-(4-chloro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester, dioxane (1.5 mL), and 3N hydrochloric acid (1.0 mL, 4equiv.) was heated at reflux for 3.5 hours. The cooled mixture was made basic with saturated sodium carbonate solution and extracted with chloroform (3×10 mL). The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. The crude product (1.2 g) was an oil.

reactant | 4-(4-chloro-benzyl)-piperidine-1-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)Cl | C17H24ClNO2
reactant | hydrochloric acid | 3N, 1.0 mL, 4equiv. | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-Chloro-benzyl)-piperidine | ClC1=CC=C(CC2CCNCC2)C=C1 | C12H16ClN
